US08754226B2
A solution of (S)-tert-butyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxoazepan-1-yl)piperidine-1-carboxylate (1.0 g, 2.0 mmol) in 50% TFA/DCM was stirred a ambient temperature for 1 hour. The mixture was concentrated in vacuo. 1N NaOH (100 mL) was added to the residue and the product was extracted into DCM (2×50 mL). The combined organic layers were dried over MgSO4, filtered and concentrated in vacuo to give (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)azepan-2-one (0.4 g, 1 mmol, 50%).

reactant | (S)-tert-butyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxoazepan-1-yl)piperidine-1-carboxylate | 2.0 mmol, 1.0 g | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CCCC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C23H34FN3O5S
solvent | TFA DCM | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | (S)-3-(2-fluoro-4-(methylsulfonyl)phenylamino)-1-(piperidin-4-yl)azepan-2-one | 1 mmol, 0.4 g, 50% | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CCCC1)C1CCNCC1)=O | C18H26FN3O3S
